US04471116
Preparation of 4-(4-methoxyphenyl)-N-(1-methylethyl)butylamine
A solution of (50 ml) isopropylamine and 4-(4-methoxyphenyl)butyl bromide (13.7 g) in a glass lined vessel was heated under nitrogen (initial pressure, 500 psi) for 12 hours at 100° C. The solvent was removed in vacuo and water (200 ml) was added to the residue. The solution was acidified with concentrated hydrochloric acid and the solution was extracted with ether. The extract was dried over potassium carbonate and the solvent was removed in vacuo. The residue, 4-(4-methoxyphenyl)-N-(1-methylethyl)butylamine, weighed 9.3 g (75%). The identity and purity (94.8%) of the product was determined by mass spectrum and gas chromatography.

reactant | 4-(4-methoxyphenyl)butyl bromide | 13.7 g | COC1=CC=C(C=C1)CCCCBr | C11H15BrO
reactant | isopropylamine | 50 ml | C(C)(C)N | C3H9N
product | 4-(4-methoxyphenyl)-N-(1-methylethyl)butylamine | COC1=CC=C(C=C1)CCCCNC(C)C | C14H23NO
